US05468748
9-Acetoxy-9H-indeno[1,2-b]pyrazine-2,3(1H,4H)-dione
9-Chloro-9H-indeno[1,2-b]pyrazine-2,3(1H,4H)-dione (0.30 g, 1.28 mmol) was refluxed in 50 ml of acetic acid for 10 min. Activated carbon (100 mg) was added and the reaction mixture was filtered and evaporated in vacuo to about 3 ml, and 20 ml of water was added. The precipitate was filtered off and washed with water and dried to give 229 mg of the crude compound, which was recrystallized from acetic acid-water to yield 190 mg (57.5%) of the title compound. M.p. >300° C. 1H-NMR (DMSO-d6, δ): 2.13 (s, 3H), 6.36 (s, 1H), 7.15 (t, 1H), 7.29 (d, 1H), 7.35 (t, 1H), 7.5 (d, 1H), 12.0 (s, 1H), 12.4 (s, 1H).

reactant | 9-Chloro-9H-indeno[1,2-b]pyrazine-2,3(1H,4H)-dione | 1.28 mmol, 0.30 g | ClC1C=2C=CC=CC2C=2NC(C(NC21)=O)=O | C11H7ClN2O2
reactant | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 9-Acetoxy-9H-indeno[1,2-b]pyrazine-2,3(1H,4H)-dione | 190 mg, 57.5% | C(C)(=O)OC1C=2C=CC=CC2C=2NC(C(NC21)=O)=O | C13H10N2O4
